US04027026
A solution of 2-[(2-aminoethyl)thiomethyl]pyridine (6.0 g.) and benzoyl isothiocyanate (6.0 g.) in chloroform (150 ml.) is heated under reflux for one hour and concentrated to give N-benzoyl-N'-[2-(2-pyridylmethylthio)ethyl]thiourea.

reactant | 2-[(2-aminoethyl)thiomethyl]pyridine | 6.0 g | NCCSCC1=NC=CC=C1 | C8H12N2S
reactant | benzoyl isothiocyanate | 6.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-N'-[2-(2-pyridylmethylthio)ethyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC1=NC=CC=C1 | C16H17N3OS2
